US08133910B2
5-n-Butyl-thiophene-2-carboxylic acid
The title compound is prepared in analogy to 5-ethyl-thiophene-2-carboxylic acid starting from 2-thiophenecarboxylic acid and 1-iodobutane; LC-MS: tR=0.92 min.

reactant | 5-ethyl-thiophene-2-carboxylic acid | C(C)C1=CC=C(S1)C(=O)O | C7H8O2S
reactant | 2-thiophenecarboxylic acid | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1-iodobutane | ICCCC | C4H9I
product | 5-n-Butyl-thiophene-2-carboxylic acid | C(CCC)C1=CC=C(S1)C(=O)O | C9H12O2S
